US07342039B2
Synthesis of 4-[3-({[(1E)-(1-Benzyl-1H-indol-3-yl)methylidene]amino}oxy)-propoxy]-2-[(4-tert-butylbenzoyl)amino]benzoic acid
To a solution of 4-[3-({[(1E)-(1-benzyl-1H-indol-3-yl)methylidene]amino}oxy)-propoxy]-2-[(4-tert-butylbenzoyl)amino]benzoic acid methyl ester (0.229 g, 0.47 mmol) in ethanol/water/tetrahydrofuran (8/3/1) was added 2.5 N NaOH (6 mL, 15 mmol) and the reaction was heated at reflux for 45 minutes until all starting material was gone. It was cooled to room temperature, concentrated to a small volume in vacuo and acidified to pH 1 with 2N HCl solution. It was extracted with ethyl acetate, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate/hexanes (10/90 to 20/80) to the title compound (0.200 g, 70%) as an off-white solid. mp=180.9-182.5° C. mass spectrum (+ES, M+H) m/z 604. 1H NMR (400 MHz, DMSO-d6); δ 13.40 (bs, 1H), 12.40 (bs, 1H), 8.65 (d, 1H), 8.39 (s, 1H), 7.98 (d, 2H), 7.87 (d, 2H), 7.82 (s, 1H) 7.60 (d, 2H), 7.48 (d, 1H), 7.30 (m, 2H), 7.2-2 (m, 4H), 7.09 (m, 1H), 6.78 (dd, 1H), 5.42 (s, 2H), 4.26 (t, 2H), 4.22 (t, 2H), 2.20 (m, 2H), 1.31 (s, 9H) Elemental analysis: Calcd. for C37H37N3O5: C, 73.61; H, 6.18; N, 6.96. Found: C, 72.91; H, 6.22; N, 6.70.

reactant | 4-[3-({[(1E)-(1-benzyl-1H-indol-3-yl)methylidene]amino}oxy)-propoxy]-2-[(4-tert-butylbenzoyl)amino]benzoic acid methyl ester | 0.47 mmol, 0.229 g | COC(C1=C(C=C(C=C1)OCCCO/N=C/C1=CN(C2=CC=CC=C12)CC1=CC=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C38H39N3O5
reactant | NaOH | 15 mmol, 2.5 N, 6 mL | [OH-].[Na+]
solvent | ethanol water tetrahydrofuran | C(C)O.O.O1CCCC1
product | 4-[3-({[(1E)-(1-Benzyl-1H-indol-3-yl)methylidene]amino}oxy)-propoxy]-2-[(4-tert-butylbenzoyl)amino]benzoic acid | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)\C=N\OCCCOC1=CC(=C(C(=O)O)C=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C37H37N3O5
